US06486190B1
A solution of 5-amino-1-t-butoxycarbonyl-2,4-dimethylbenzimidazole (1.1 g, 4.2 mmol) in methylene chloride (60 mL) is added dropwise over 30 minutes to a solution of di-2-pyridyl thionocarbonate (1.9 g, 8.2 mmol) and 4-dimethylaminopyridine (0.1 g) in methylene chloride (150 mL). The mixture is stirred for 2 hours at room temperature then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 10% ethyl acetate/hexane to afford 1-t-butoxycarbonyl-2,4-dimethyl-5-isothiocyanatobenzimidazole as a white solid.

reactant | 5-amino-1-t-butoxycarbonyl-2,4-dimethylbenzimidazole | 4.2 mmol, 1.1 g | NC1=C(C2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C=C1)C | C14H19N3O2
reactant | di-2-pyridyl thionocarbonate | 8.2 mmol, 1.9 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-t-butoxycarbonyl-2,4-dimethyl-5-isothiocyanatobenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2C)N=C=S)C | C15H17N3O2S
